US06777418B2
To a solution of 1.8 g (6.3 mmol) of 2-formyl-3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene in 70 mL of benzene was added 3.5 mL of ethylene glycol (63 mmol) followed by p-toluenesulfonic acid monohydrate (180 mg, 0.9 mmol). The reaction mixture was heated at reflux for about 3 hours and is then concentrated under reduced pressure. The residue was partitioned between ether and saturated sodium bicarbonate solution. The ether layer was washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by flash chromatography 1.4% ethyl acetate/) on a Biotage 40M SiO2 cartridge to afford 1.5 g (72%) of 2-(1,3-dioxolan-2-yl)-3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene as a crystalline solid.

reactant | 2-formyl-3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 6.3 mmol, 1.8 g | C(=O)C1=CC=2C(CCC(C2C=C1Br)(C)C)(C)C | C15H19BrO
reactant | ethylene glycol | 63 mmol, 3.5 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.9 mmol, 180 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
product | 2-(1,3-dioxolan-2-yl)-3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 1.5 g, 72% | O1C(OCC1)C1=CC=2C(CCC(C2C=C1Br)(C)C)(C)C | C17H23BrO2
